US04687775
2-[[(2,3-dimethylimidazo[1,2-a]pyridin-8-yl)methyl]thio]-1H-benzimidazole
A mixture of 2.0 g (12 mmole) of 3-(acetoxymethyl)-2-pyridinamine, 1.7 g (17 mmole) of 3-chloro-2-butanone, and one crystal of potassium iodide was heated at 100° for 4.5 hours. The mixture was allowed to cool and was partitioned between aqueous potassium carbonate and dichloromethane. The organic phase was separated, washed with water, dried over magnesium sulfate, filtered, and concentrated in vacuo. The solid was triturated with diethyl ether and collected by filtration to yield 738 mg of 8-(acetoxymethyl)-2,3-dimethylimidazo[1,2-a]pyridine, as confirmed by the nmr and infrared spectra and by elemental analysis. [Calcd. for C12H14N2O2 : C, 66.04; H, 6.47; N, 12.84. Found: C, 66.01; H, 6.38; N, 13.05.] A mixture of 700 mg (3.2 mmole) of 8-(acetoxymethyl)-2,3-dimethylimidazo[1,2-a]pyridine and 482 mg (3.2 mmole) of 2-mercaptobenzimidazole in 10 ml of 15% hydrogen bromide in acetic acid was heated on a steam bath. After being cooled to room temperature, the mixture was partitioned between 5% aqueous sodium hydroxide and dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated to an oil. Spinning disk chromatography on silica gel (using 1% by volume ethanol-dichloromethane as eluent) yielded 1.05 g of the title compound Structure assignment was supported by the nmr and infrared spectra.

reactant | 8-(acetoxymethyl)-2,3-dimethylimidazo[1,2-a]pyridine | 3.2 mmole, 700 mg | C(C)(=O)OCC=1C=2N(C=CC1)C(=C(N2)C)C | C12H14N2O2
reactant | 2-mercaptobenzimidazole | 3.2 mmole, 482 mg | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
solvent | hydrogen bromide | 10 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[[(2,3-dimethylimidazo[1,2-a]pyridin-8-yl)methyl]thio]-1H-benzimidazole | 1.05 g | CC=1N=C2N(C=CC=C2CSC2=NC3=C(N2)C=CC=C3)C1C | C17H16N4S
